US04596870
1-α-Phenoxyethyl-5-chloropyrimidin-2-one
The title compound was prepared in a manner similar to that described in Example 6 by adding a solution of α-chloroethoxybenzene [see Preparation 8] (4.5 mmol) in dichloromethane (5 ml) to a solution from 5-chloropyrimidin-2-one hydrochloride (4.5 mmol) in dichloromethane (15 ml) at 5° C., and the mixture was stirred at room temperature for 2 h before being worked up. The product was a mixture of the desired N-isomer and the O-isomer in the ratio 3:2; yield 0.85 g (76%). The isomers were separated by chromatography on silica gel using chloroform as above; m.p. 92° C. (CH2Cl2 /Pet.ether). (Found: C58.02; H 4.51 Calc. for C12H11ClN2O2 : C57.49; H4.43) 1H NMR (CDCl3): δ 1.72 (Me, d, J 5 Hz), 6.47-7.3 (Ph,H-δ), 7.79 and 8.40 (H-4 and H-6, respectively, J 3 Hz). IR (KBr): 1665 cm-1 (CO). MS [70 eV, m/z (% rel. int.)]: 250 (l,M), 159 (30)), 157 (100), 121 (23), 77 (30), 65 (17).

reactant | α-chloroethoxybenzene | 4.5 mmol | ClC(C)OC1=CC=CC=C1 | C8H9ClO
reactant | 5-chloropyrimidin-2-one hydrochloride | 4.5 mmol | Cl.ClC=1C=NC(NC1)=O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-α-Phenoxyethyl-5-chloropyrimidin-2-one | O(C1=CC=CC=C1)C(C)N1C(N=CC(=C1)Cl)=O | C12H11ClN2O2
